US06248306B1
d) 1-Hydroxy-11-(4-nitrophenoxy)-3,6,9-trioxaundecane
18.16 g (128.7 mmol) of 4-fluoronitrobenzene is added to 100 g (515.0 mmol) of tetraethylene glycol, 73 g (1300 mmol) of finely powdered potassium hydroxide and 500 mg of tetrabutylammonium hydrogen sulfate in 500 ml of toluene at 0° C., and it is stirred overnight at room temperature. 1000 ml of saturated common salt solution is; added, the organic phase is separated and it is dried on magnesium sulfate. It is evaporated to dryness in a vacuum, and the residue is chromatographed in silica gel (mobile solvent: methylene chloride/isopropanol=15:1).

reactant | 4-fluoronitrobenzene | 128.7 mmol, 18.16 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | tetraethylene glycol | 515.0 mmol, 100 g | C(COCCOCCOCCO)O | C8H18O5
reactant | potassium hydroxide | [OH-].[K+]
catalyst | tetrabutylammonium hydrogen sulfate | 500 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 1-Hydroxy-11-(4-nitrophenoxy)-3,6,9-trioxaundecane | OCCOCCOCCOCCOC1=CC=C(C=C1)[N+](=O)[O-] | C14H21NO7
